US06719520B2
3-(3,5-Di-fluorophenylamino)-4-(2,3-di-fluorophenyl)-1H-pyrrole-2,5-dione
A solution of 3,5-difluoroaniline (161 mg, 0.00125 mol) and 3-chloro-4-(2,3-di-fluorophenyl)-1H-pyrrole-2,5-dione (122 mg, 0.0005 mol) in methanol (2 mL) was heated in a sealed tube at 65° C. for 8 days. The mixture was acidified with aqueous hydrochloric acid (1M) and extracted with ethyl acetate. The combined organic solutions were washed with water and brine, dried with magnesium sulphate, evaporated and the residue triturated with hexane-dichloromethane (95:5 v/v) to afford the title compound as a solid.

reactant | 3,5-difluoroaniline | 0.00125 mol, 161 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | 3-chloro-4-(2,3-di-fluorophenyl)-1H-pyrrole-2,5-dione | 0.0005 mol, 122 mg | ClC=1C(NC(C1C1=C(C(=CC=C1)F)F)=O)=O | C10H4ClF2NO2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 3-(3,5-Di-fluorophenylamino)-4-(2,3-di-fluorophenyl)-1H-pyrrole-2,5-dione | FC=1C=C(C=C(C1)F)NC=1C(NC(C1C1=C(C(=CC=C1)F)F)=O)=O | C16H8F4N2O2
